US04568744
Preparation of 5-Dimethylaminomethyluracil Hydrochloride
Uracil (56.05 g, 0.50 mol) was refluxed with dimethylamine hydrochloride (81.55 g, 1.0 mol) and 37% aqueous formaldehyde (61 mL, 1.0 mol) in water (100 mL) for two days. The solvent was evaporated and the product triturated with methanol. After filtration and drying, the title compound was isolated (80.6 g, 78.3%).

reactant | Uracil | 0.50 mol, 56.05 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | dimethylamine hydrochloride | 1.0 mol, 81.55 g | Cl.CNC
reactant | formaldehyde | 1.0 mol, 61 mL | C=O | CH2O
solvent | water | 100 mL | O | H2O
product | 5-Dimethylaminomethyluracil Hydrochloride | Cl.CN(C)CC=1C(NC(NC1)=O)=O | InChI=1S/C7H11N3O2.ClH/c1-10(2)4-5-3-8-7(12)9-6(5)11;/h3H,4H2,1-2H3,(H2,8,9,11,12);1H
